US09388189B2
b) 4-Amino-6-chloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide
4,6-Dichloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide (506 mg, 1.70 mmol) was dissolved in dioxane (8 ml) and cooled in an ice bath. Ammonia solution (1.25 ml, 8.75 mmol, 7N in MeOH) was added dropwise and the mixture was stirred at 0° C. for 6 h. After evaporation of the solvent under reduced pressure, the residue was suspended in ethyl acetate and filtered, washing successively with ethyl acetate. The solvent of the filtrate is evaporated under reduced pressure to yield the final compound as a solid (454 mg, 93% purity, 89% yield) which was used in the next synthetic step without further purification.

reactant | 4,6-Dichloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide | 1.70 mmol, 506 mg | ClC1=NC=NC(=C1C(=O)NC1=C(C=CC=C1)OC)Cl | C12H9Cl2N3O2
reactant | Ammonia | 8.75 mmol, 7N, 1.25 ml | N | H3N
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
product | 4-Amino-6-chloro-N-(2-methoxyphenyl)pyrimidine-5-carboxamide | 454 mg, 89% yield | NC1=NC=NC(=C1C(=O)NC1=C(C=CC=C1)OC)Cl | C12H11ClN4O2
